US07851626B2
rac-2-{4-[(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-1-morpholin-4-yl-ethanone
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 1-morpholin-4-yl-2-piperazin-1-yl-ethanone (Oakwood Products) to give the title compound. HR-MS (ES, m/z) calculated for C37H41N5O4F3Cl2 [(M+H)+] 746.2482, observed 746.2483.

reactant | rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1(C)C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)C(F)(F)F)OCC)C | C27H22Cl3F3N2O2
reactant | 1-morpholin-4-yl-2-piperazin-1-yl-ethanone | N1(CCOCC1)C(CN1CCNCC1)=O | C10H19N3O2
product | rac-2-{4-[(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-1-morpholin-4-yl-ethanone | ClC1=CC=C(C=C1)[C@@]1(N=C(N([C@]1(C)C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CC(=O)N1CCOCC1)C1=C(C=C(C=C1)C(F)(F)F)OCC)C | C37H40Cl2F3N5O4
